US04447260
To a solution of 3-chloro-4-trifluoromethoxyaniline (2.1 g) in methylene chloride (50 ml), triethylamine (1.1 g) was added, and a solution of 1-methylcyclopropanecarbonyl chloride (1.2 g) in methylene chloride was dropwise added thereto while stirring and ice-cooling. After stirring at room temperature for 1 hour, the reaction mixture was washed with 1 N hydrochloric acid, sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated. The crude crystals (2.9 g) were recrystallized from ethanol to give N-(3-chloro-4-trifluoromethoxyphenyl)-1-methylcyclopropanecarboxamide (2.6 g). M.P., 101°-102° C.

reactant | 3-chloro-4-trifluoromethoxyaniline | 2.1 g | ClC=1C=C(N)C=CC1OC(F)(F)F | C7H5ClF3NO
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | 1-methylcyclopropanecarbonyl chloride | 1.2 g | CC1(CC1)C(=O)Cl | C5H7ClO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-4-trifluoromethoxyphenyl)-1-methylcyclopropanecarboxamide | 2.6 g | ClC=1C=C(C=CC1OC(F)(F)F)NC(=O)C1(CC1)C | C12H11ClF3NO2
